US07662771B2
Add 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide(EDC) (8.5 g, 44.3 mL) to a solution of 2-amino-1-phenylethanol (5.0 g, 36.4 mmol), suberic acid monomethyl ester (6.85 g, 36.4 mmol) and 1-hydroxybenzotriazole (HOBt, 5.0 g, 37.0 mmol) in THF (200 mL) at room temperature under nitrogen. Stir the mixture for 12 hours. Dilute the mixture with ethyl acetate (600 mL), wash with 1N HCl (2×150 mL), brine (2×150 mL), NaHCO3 (2×150 mL) and brine (150 mL) solutions and dry over sodium sulfate. Remove the solvent under reduced pressure to provide 7-(2-hydroxy-2-phenylethylcarbamoyl)heptanoic acid methyl ester (10.3 g, 91%), which is used in the following step without purification.

reactant | 2-amino-1-phenylethanol | 36.4 mmol, 5.0 g | NCC(O)C1=CC=CC=C1 | C8H11NO
reactant | suberic acid monomethyl ester | 36.4 mmol, 6.85 g | COC(CCCCCCC(=O)O)=O | C9H16O4
reactant | 1-hydroxybenzotriazole | 37.0 mmol, 5.0 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 600 mL | C(C)(=O)OCC | C4H8O2
product | 7-(2-hydroxy-2-phenylethylcarbamoyl)heptanoic acid methyl ester | 10.3 g, 91% | COC(CCCCCCC(NCC(C1=CC=CC=C1)O)=O)=O | C17H25NO4
